US07557114B2
(a) 5-(2-Methyl-pyridin-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
A mixture containing 1.4 mmol 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester, 4.8 mmol potassium fluoride, 1.4 mmol 4-chloro-2-picoline (commercial) and 0.03 mmol bis(tri-tert.-butylphosphine)palladium in 5 ml deglazed dioxane was stirred at 100° C. for 1.5 hours. The solvent was removed in vacuo. The residue was taken in ethyl acetate. The mixture was washed twice with water. The aqueous layer was extracted once with ethyl acetate. The combined organic layers were dried over Na2SO4, filtered and the solvent was removed in vacuo. The crude oil was purified on a 20 g Flashpack cartridge (Eluent: Heptane/AcOEt) to afford the title compound as a yellow oil (69% yield). MS (m/e): 311.2 ([M+H]+, 100%)

reactant | 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 1.4 mmol | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)B1OC(C(O1)(C)C)(C)C | C19H28BNO4
reactant | potassium fluoride | 4.8 mmol | [F-].[K+]
reactant | 4-chloro-2-picoline | 1.4 mmol | ClC1=CC(=NC=C1)C | C6H6ClN
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-(2-Methyl-pyridin-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 69% yield | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)C1=CC(=NC=C1)C | C19H22N2O2
